US07259266B2
Preparation of Ethyl 6-[2-(4-bromophenyl)-2-oxoethoxy]-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The mixture of ethyl 6-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate (1.0 g, 3.47 mmol), 2-(4-bromophenyl)-2-oxoethyl bromide (0.96g, 3.47mmol) and potassium carbonate (0.96 g, 6.94 mmol) in 4 mL of dry DMF was heated to 70° C. and shaken for two hrs, then at room temperature overnight. The solid was filtered, and washed with ethyl acetate. The combined organic phases were washed with brine, and then dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified on silica gel column with 1:9 EtOAc/hexane. It gave 0.65 g of light yellow solid (38.6%). M.P.=130.5-131.5° C. 1HNMR (CDCl3/400 MHz) 7.86(m, 1H), 7.83(m, 1H) 7.65(m, 1H), 7.63-7.62(m, 2H), 6.89-6.88(m, 2H), 6.77(m, 1H),5.64(q, J=6.8 Hz, 1H, ), 5.16(s, 2H), 4.33-4.26(m, 2H), 1.33(t, J=7.2 Hz, 3H). 13C NMR (CDCl3/300 MHz), 193.8, 163.9, 153.3, 148.2, 136.8, 133.3, 132.5, 129.9, 129.5, 123.6 (q, J=287.9 Hz), 119.9, 119.8, 117.8, 117.1, 115.1, 71.8, 70.8(q, J=32.8 Hz), 61.7, 14.4. 19F(CDCl3/400 MHz) −78.72(d, J=6.8 Hz). LC-MS: 484.9 (M+1, 100), 486.9(M+3, 100). Purity =95%. HRMS (ES+) m/z calcd for (C21H16BrF3O5) 502.0471(M+NH4), 504.0454 (M+NH4+2), found 502.0484, 504.0492.

reactant | ethyl 6-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 3.47 mmol, 1.0 g | OC=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC | C13H11F3O4
reactant | 2-(4-bromophenyl)-2-oxoethyl bromide | 3.47mmol, 0.96g | BrC1=CC=C(C=C1)C(CBr)=O | C8H6Br2O
reactant | potassium carbonate | 6.94 mmol, 0.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-[2-(4-bromophenyl)-2-oxoethoxy]-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.65 g, 38.6% | BrC1=CC=C(C=C1)C(COC=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)=O | C21H16BrF3O5
